US06638934B2
To a solution of 4-carbobenzyloxypiperazine-2-carboxylic acid, copper chelate in 750 ml water was added ethylenediaminetetracetic acid, disodium salt, dihydrate (7.9 g, 21 mmol) and the blue mixture was heated to 80° C. for 3 h. The reaction mixture was cooled to rt and concentrated to dryness. The blue residue was dissolved in 100 ml DMSO. 2,4-dichloronitrobenzene (6.66 g, 35 mmol) and triethyl amine (20 ml, 143 mmol) were added and the solution was heated to 60° C. for 16 h. The dark reaction mixture was cooled to rt. Concentrated HCl was added to pH=3. The solution was then diluted with 500 ml water and the aqueous layer was extracted with ethyl acetate. The combined organics were washed with water, dried over MgSO4 and concentrated to afford 4-carbobenzyloxy-l-(4-chloro-2-nitrophenyl)piperazine-2-carboxylic acid as a yellow residue used directly in the next step.

reactant | 4-carbobenzyloxypiperazine-2-carboxylic acid | C(=O)(OCC1=CC=CC=C1)N1CC(NCC1)C(=O)O | C13H16N2O4
reactant | ethylenediaminetetracetic acid | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
reactant | disodium | [Na][Na] | 2Na
reactant | 2,4-dichloronitrobenzene | 35 mmol, 6.66 g | ClC1=C(C=CC(=C1)Cl)[N+](=O)[O-] | C6H3Cl2NO2
reactant | triethyl amine | 143 mmol, 20 ml | C(C)N(CC)CC | C6H15N
reactant | HCl | Cl | ClH
solvent | water | 750 ml | O | H2O
solvent | water | 500 ml | O | H2O
catalyst | copper chelate | C1=CC=NC(=C1)C(=O)[N-]C(=O)C2=CC=CC=N2.O.O.[Cu+2]
product | 4-carbobenzyloxy-l-(4-chloro-2-nitrophenyl)piperazine-2-carboxylic acid | C(=O)(OCC1=CC=CC=C1)N1CC(N(CC1)C1=C(C=C(C=C1)Cl)[N+](=O)[O-])C(=O)O | C19H18ClN3O6
